US05654472
In a 200 ml reaction vessel, 10 g of 2-(2,4-difluorophenyl)-1,3-diacetoxy-2-propanol was dissolved in 30 ml of toluene and thereto was added 30 ml of 30% aqueous KOH solution. The resulting liquid was stirred at room temperature for 24 hours and more. Then a toluene-layer and an aqueous layer were separated from each other and the aqueous layer was extracted twice with 50 ml of ethyl acetate. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. The solvent was removed therefrom and the residue was purified in the same manner as in Example 32 to give 6.5 g of 2-(2,4-difluorophenyl)-1,2,3-propanetriol.

reactant | 2-(2,4-difluorophenyl)-1,3-diacetoxy-2-propanol | 10 g | FC1=C(C=CC(=C1)F)C(COC(C)=O)(COC(C)=O)O | C13H14F2O5
reactant | KOH | 30 ml | [OH-].[K+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,4-difluorophenyl)-1,2,3-propanetriol | 6.5 g | FC1=C(C=CC(=C1)F)C(CO)(CO)O | C9H10F2O3
